US03947459
A flask equipped as described in Example 1 was charged with 25.6 milliliters bleach (0.065 m, 2.39 M, 9.49 grams NaOH/liter) and cooled to maintain the temperature below 25° C. Dropwise addition of 18.5 grams (0.06 m) of 4-methylpiperidinium sulfate solution, (32.1% theoretical amine content) was made, followed by the addition of 2.4 grams (0.06 m) of NaOH in 10 milliliters of water. Addition of 17.6 grams (0.05 m) of a solution of sodium mercaptobenzothiazole (47.3% theoretical mercaptobenzothiazole) was added dropwise over 5 minutes, allowing the temperature to range from 15° to 36° C. The mixture was stirred for 15 minutes at 30° to 36° C. The mixture was cooled to 10° C., whereupon the product solidified and was separated from solution. The off-white, solid product was washed thoroughly with water and dried at 40° C. The yield was 87.5% of 2-(4-methylpiperidinothio)-benzothiazole with a melting point of 46° to 49.5° C. The purity was rated at 98.7% using the reduction-titration method described in Example 1.

reactant | NaOH | 2.39 M, 9.49 grams | [OH-].[Na+]
reactant | 4-methylpiperidinium sulfate | 18.5 grams | S(=O)(=O)([O-])[O-].CC1CC[NH2+]CC1.CC1CC[NH2+]CC1
reactant | NaOH | 2.4 grams | [OH-].[Na+]
reactant | sodium mercaptobenzothiazole | SC=1SC2=C(N1)C=CC=C2.[Na]
solvent | water | 10 milliliters | O | H2O
product | 2-(4-methylpiperidinothio)-benzothiazole | yield was 87.5% | CC1CCN(CC1)SC=1SC2=C(N1)C=CC=C2 | C13H16N2S2
